US07897597B2
tert-Butyl N-(4-aminobutyl)carbamate (28.6 g, 152.0 mmol) was added dropwise to a solution of 7-benzyloxy-4-chloro-3-nitroquinoline (40.7 g, 138 mmol), prepared in Parts A-D of Example 1, and triethylamine (38.5 mL, 276 mmol) in dichloromethane over a period of 1.5 hours. After the reaction was stirred for 18 hours, the reaction mixture was washed twice with water and once with saturated aqueous sodium chloride. The organic was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was recrystallized from 2-propanol to afford 51.4 g of tert-butyl [4-(7-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate as a golden brown powder.

reactant | tert-Butyl N-(4-aminobutyl)carbamate | 152.0 mmol, 28.6 g | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
reactant | 7-benzyloxy-4-chloro-3-nitroquinoline | 138 mmol, 40.7 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C16H11ClN2O3
reactant | triethylamine | 276 mmol, 38.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl [4-(7-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate | 51.4 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O | C25H30N4O5
